Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],4.4073832825
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]#[C:9][H:10])[C:12]([H:13])([H:14])[H:15],1.99719789886
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([O:8][H:9])[O:10][H:11].[H:7],1.83148778453
[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-8.89844415927
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:5])=[C:9]([H:10])[H:11].[O:1][C:4](=[O:3])[C:6]([H:7])([H:8])[H:12],4.4270673913300005
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.4961541157799998
[C:10]([H:11])[H:12].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-6.169277228
[H:1][C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:14])[H:15].[H:1]/[C:5]([C:2]#[C:12][H:13])=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11],2.08001820256
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],3.95773192554
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[H:8]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6](=[O:7])[H:8],1.02754720642
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:7]([H:8])[H:9].[H:6],5.04903928065
[C:3]([O:4][O:5][H:6])#[C:7][H:8].[H:1][C:2]=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.42002040194
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13].[H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.78388962528
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1][O:2][C@@:3]([H:4])([C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.81031530011
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],7.170906935650001
[H:1][C:2]([C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],2.1338360054400005
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]#[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:3][H:4],4.516665635290001
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.962775266
[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1][C:2]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.99252816866
[O:1]=[C:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]=[C:3][C:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11],2.43143461953
[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-0.388023827531
[H:1][O:2][C:3]([H:4])([H:5])[C:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.5307689355399998
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.8357634172
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[H:13].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[O:12],1.67092730745
[C:1]#[C:2][O:3][C:4]([H:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.30696968533
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.9982382084699983
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][C:8]([H:9])=[C:10][H:11],3.5911363978199993
[H:1][O:2][C@:3]12[O:4][C@:5]1([H:6])[C:7]2[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],1.5469423002200002
